Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fevers
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ female with past medical history of ESRD secondary 
to IgA nephropathy who had a living unrelated kidney transplant 
in ___ p/w intermittent fevers and generalized malaise.

On ___, 4 days prior to presentation, she developed fever to 
104.7, chills, myalgias, and a lack of taste to food. On 
___, she presented to her PCP who did blood work and told 
her that her Cr was 1.2 but there was no signs of any infection. 
However, ___ night she was again febrile to 102.7 so she 
called Dr. ___ today and was referred into the ED. 
Also notes foul smelling urine x 10 days. Denies cough, CP, SOB, 
sore throat, vomiting. She has had ___ loose stools yesterday, 
no blood. She returned from a six month visit to her mother's in 
___, ___ two weeks ago. Her husband has been ill with URI 
symptoms, but he became ill after she did.  
  
-In the ED initial vital signs: T 98.3 (Tm 100.4) P 88 BP 132/82 
R 16 O2 Sat 100% RA. 
-Labs notable for wbc 8.6, H/H 10.0/31/1, BUN 18, Cr 1.2 
(baseline 0.9-1.1), UA sm Leuk, sm bld, neg nitrites, few 
bacteria, trace protein. Flu A, B negative. Lacte 1.8. 
-CXR showed no acute cardiopulmonary process. 
-Renal transplant was consulted and recommended holind 
antibiotics, f/u EBV and CMV viral loads, and admitting to 
___
-The patient received Tacrolimus 3.5 mg and was admitted to the 
floor.

On the floor, she is asymptomatic.
  
ROS: per HPI, denies night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.
  
 
Past Medical History:
1.HTN 
2.hypercholesterolemia 
3.IgA nephropathy
4.+PPD
5. s/p renal tx living unrelated donor (___)
6. s/p renal UVJ stent
7. s/p perc neph placement and subsequent removal

 
Social History:
___
Family History:
CAD, HTN
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
==================
Vital Signs: 98.0  126/82  100  18  98%RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley, no tenderness over transplant
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: moving all extremities equally 

DISCHARGE PHYSICAL EXAM:
==================
Vital Signs: 98.6, 116/67-137/84, 75-85, 18, 98-100%RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding. renal transplanted 
kidney in left iliac fossa nontender to palpation   
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: moving all extremities equally 

 
Pertinent Results:
ADMISSION LAB VALUES:
===============

___ 05:10PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 11:34AM   GLUCOSE-113* UREA N-18 CREAT-1.2* SODIUM-134 
POTASSIUM-4.5 CHLORIDE-100 TOTAL CO2-21* ANION GAP-18
___ 11:34AM   estGFR-Using this
___ 11:34AM   WBC-8.6 RBC-3.44* HGB-10.0* HCT-31.1* MCV-90 
MCH-29.1 MCHC-32.2 RDW-13.5 RDWSD-44.6
___ 11:34AM   NEUTS-65.0 LYMPHS-15.9* MONOS-16.8* EOS-1.0 
BASOS-0.3 IM ___ AbsNeut-5.57 AbsLymp-1.36 AbsMono-1.44* 
AbsEos-0.09 AbsBaso-0.03
___ 11:34AM   PLT COUNT-188
___ 11:34AM   ___ PTT-30.5 ___
___ 11:34AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:34AM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-SM 
___ 11:34AM URINE  RBC-2 WBC-3 BACTERIA-FEW YEAST-NONE 
EPI-2
___ 11:30AM   LACTATE-1.8

DISCHARGE LAB VALUES:
===============
___ 05:00AM BLOOD WBC-8.1 RBC-3.28* Hgb-9.7* Hct-30.4* 
MCV-93 MCH-29.6 MCHC-31.9* RDW-13.7 RDWSD-47.0* Plt ___
___ 05:00AM BLOOD Glucose-121* UreaN-15 Creat-0.8 Na-139 
K-4.8 Cl-105 HCO3-24 AnGap-15
___ 05:00AM BLOOD ALT-90* AST-37 LD(LDH)-200 CK(CPK)-28* 
AlkPhos-180* TotBili-0.2
___ 05:00AM BLOOD Albumin-3.3* Calcium-9.2 Phos-5.1* Mg-1.9
___ 05:00AM BLOOD tacroFK-4.6*
___ 04:40AM BLOOD HBsAg-Negative HBsAb-Positive IgM 
HBc-Negative IgM HAV-Negative
___ 04:40AM BLOOD HCV Ab-Negative

MICROBIOLOGY:
==========
___ CULTURE-FINAL {ENTEROCOCCUS SP.}
                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    >100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------     1 S

___ (CMV)CMV Viral Load-FINAL
                            **FINAL REPORT ___

   CMV Viral Load (Final ___: 
      CMV DNA not detected. 
      Performed by Cobas Ampliprep / Cobas Taqman CMV Test. 
      Linear range of quantification: 137 IU/mL - 9,100,000 
IU/mL. 
      Limit of detection 91 IU/mL. 
      This test has been verified for use in the ___ patient 
population

___ 05:50  EBV PCR, Quantitative **************

PERTINENT IMAGING/STUDIES:
===================
___ (PA & LAT)
IMPRESSION: 
 
No acute cardiopulmonary process.

___ TRANSPLANT U.S.
FINDINGS: 
 
The right lower quadrant transplant renal morphology is normal.  
Specifically,
the cortex is of normal thickness and echogenicity, pyramids are 
normal, there
is no urothelial thickening, and renal sinus fat is normal.  
There is no
hydronephrosis and no perinephric fluid collection.
 
The resistive index of intrarenal arteries ranges from 0.68 to 
0.72, within
the normal range.  The main renal artery shows a normal 
waveform, with prompt
systolic upstroke and continuous antegrade diastolic flow, with 
peak systolic
velocity of 54 cm/sec. Vascularity is symmetric throughout 
transplant. The
transplant renal vein is patent and shows normal waveform.
 
IMPRESSION: 
 
Normal renal transplant ultrasound.

___ US (COMPLETE ST
IMPRESSION:
 
 
1. Mildly prominent CBD measuring up to 1 cm, though given 
gradual taper noted
distally, findings are likely normal.
2. Contracted gallbladder, without sonographic evidence of acute
cholecystitis.

 
Brief Hospital Course:
___ female with past medical history of ESRD secondary 
to IgA nephropathy who had a living unrelated kidney transplant 
in ___ p/w intermittent fevers to 104 max ___ and 100s 
the last 3 days, now intermittently febrile ___ found to have 
enterococcus UTI. 

# Fevers: 
# Urinary Tract Infection 
Pt reported 2 week hx foul smelling urine with possible light 
hematuria. Also concurrent watery diarrhea which had since 
resolved(below). Patient initially started broadly on Vancomycin 
and amoxicillin. Continued on vancomycin alone following dual 
sensitivities while until afebrile x48 hours. Transitioned to PO 
amoxicillin 875 BID with ___nding evening of ___. 


# Diarrhea
Likely due to viral process given generalized malaise, similar 
symptoms in her husband. Given concurrent history of watery 
diarrhea this also suggests certain etiologies such as norovirus 
or adenovirus, cmv less likely, but concerning in transplant pts 
on tacro and AZA. She developed no further episodes on diarrhea 
while admitted. CMV viral load negative and EBV viral load 
pending on discharge. 

# Transaminitis:
Differential is broad in immunosuppressed patient but concerned 
for viral infection given normal abdominal ultrasound on ___. 
Statin was held and viral loads as above. Further hepatitis 
workup revealed HepB immunization without active Hepatitis A, B, 
or C infection. Trending down on discharge. Discharged with 
repeat labs in one week and nephrology follow up. Instructed to 
call PCP for follow up within 2 weeks.

#ESRD s/p LURT in ___. Renal function at baseline (0.8-0.9). 
Renal US on ___ normal. Follow up scheduled with nephrology 
upon discharge. 

#Immunosuppression: continued home tacrolimus and azathioprine. 
Daily tacrolimus trough was consistently within goal ___. 

# HLD: held statin in setting of elevated LFTs, CK checked ___ 
was low normal. To restart statin as outpatient when LFTs 
normalize. 

*****TRANSITIONAL ISSUES*****
# CODE: Full 
# CONTACT: ___ (husband) ___ 
# Follow up fevers after discharge and completion of antibiotics 
course
# Discharged on: amoxicillin 875 BID for 14 days, last dose 
___
# Follow up LFTs and labs as outpatient (repeat labs ordered for 
1 week post-discharge, to be faxed to, nephrologist, Dr. 
___ and restart pravastatin as indicated.
# EBV viral load pending on discharge, please follow up at next 
outpatient appointment. 
# Discharge BUN/Cr: ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. AzaTHIOprine 50 mg PO DAILY 
2. Pravastatin 20 mg PO QPM 
3. Tacrolimus 3.5 mg PO BID 
4. Calcium 500 (calcium carbonate) 500 mg calcium (1,250 mg) 
oral uncertain 

 
Discharge Medications:
1. amoxicillin 875 mg oral BID Duration: 12 Days 
Treatment of complicated UTI, last dose ___ 
RX *amoxicillin 875 mg 1 tablet(s) by mouth twice a day Disp 
#*24 Tablet Refills:*0
2. AzaTHIOprine 50 mg PO DAILY 
3. Tacrolimus 3.5 mg PO BID 
4. Calcium 500 (calcium carbonate) 500 mg calcium (1,250 mg) 
oral uncertain 
5. Outpatient Lab Work
Diagnosis: Transaminitis (R74.8), Renal transplant (Z94.0), 
Complicated urinary tract infection (N39.0)
Labs: CBC, Na+, K+, Cl-, HCO3, BUN, Cr, Tacrolimus level, AST, 
ALT, Alk phos, T-Bili. 
Fax results to: ___ - Attn: Dr. ___: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Urinary Tract Infection

Secondary: living unrelated kidney transplant 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

 You were admitted to the ___ 
after having fevers at home for the last week. We were able to 
identify the source of your fevers as an infection in your 
urine. You were treated with antibiotics and you recovered 
nicely. 

 You were monitored in the hospital and upon time of discharge 
you transitioned from IV to oral antibiotics. You were 
discharged on the following medication:

- Amoxicillin 875 mg twice daily. 

Please continue to take this medication until your last dose on 
the evening of ___.

You will have close follow up with Dr. ___ should call 
your PCP to schedule an appointment within 2 weeks of discharge 
or sooner if needed. 

You were provided with a prescription for lab work in one week. 
Please take this to your nearest insurance approved lab to 
complete. Your results will be faxed to Dr. ___ they 
___ follow up with you. 

It was a pleasure taking part in your care, Ms. ___.

Best,
Your ___ and ___ 
Teams
 
 
Followup Instructions:
___